* source P1_2
Q_Q2         N02613 N02691 N02699 BC846B 
R_R2_1         N05952 N02545  68k TC=0,0 
C_C3         N02653 N02665  10u  TC=0,0 
C_C1_1         N02785 N02721  4.7u  TC=0,0 
R_R10_1         N03013 N06547  1000k TC=0,0 
R_R9_1         N02745 N06438  100k TC=0,0 
V_V1         N02785 0  AC 2.5mVac
+SIN 0 2.5mVac 1k 0 0 0
R_R6_1         N02721 N06266  330k TC=0,0 
R_R4         N02613 N02545  15k TC=0,0 
C_C6         N03013 N02653  2.2n  TC=0,0 
V_V2         N02545 0 18Vdc
R_P1_1         N06847 N02665  15k TC=0,0 
R_R1_2         N05701 N05697  15k TC=0,0 
C_C4_1         0 N02699  10u  TC=0,0 
C_C2_1         N02613 N02653  4.7u  TC=0,0 
Q_Q1         N02691 N02721 N02745 BC846B 
R_R5         0 N02699  1k TC=0,0 
C_C5         N02745 N03013  470p  TC=0,0 
R_R3         0 N02745  1k TC=0,0 
C_C2_2         N02613 N02653  4.7u  TC=0,0 
C_C1_2         N02785 N02721  4.7u  TC=0,0 
C_C4_2         0 N02699  4.7u  TC=0,0 
R_R1_3         0 N05701  10k TC=0,0 
R_R1_1         N05697 N02785  15k TC=0,0 
R_R2_2         N02691 N05952  150k TC=0,0 
R_R6_2         N06266 N02699  330k TC=0,0 
R_R9_2         N06438 N03013  22k TC=0,0 
R_R11_1         N06547 N02653  390k TC=0,0 
R_P1_2         0 N06847  10k TC=0,0 
